US05273674
4. 2,5-dibenzoyloxy-2,5-dihydrofuran
A mixture of 100 g benzoic acid, 67.5 g lead (IV) benzoate (produced by the method described in J. Chem. Soc. 1954, 2747) and 10.2 g furan was heated for 1 hour to 50° C. and for 3 hours to 75° C. After cooling to room temperature, filtration and removal of excess furan in vacuo, 26 g 2,5-dibenzoyloxy-2,5-dihydrofuran melting at 190 to 196° C. crystallized out from the residue after addition of 100 ml dioxane and cooling to approx. 0° C.

reactant | benzoic acid | 100 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | lead (IV) benzoate | 67.5 g | C(C1=CC=CC=C1)(=O)[O-].[Pb+4].C(C1=CC=CC=C1)(=O)[O-].C(C1=CC=CC=C1)(=O)[O-].C(C1=CC=CC=C1)(=O)[O-]
reactant | furan | 10.2 g | O1C=CC=C1 | C4H4O
product | 2,5-dibenzoyloxy-2,5-dihydrofuran | C(C1=CC=CC=C1)(=O)OC1OC(C=C1)OC(C1=CC=CC=C1)=O | C18H14O5
